US09284323B2
Preparation of 6-bromo-3-methylnaphthalen-1-ol:
A solution of ethyl 4-(3-bromophenyl)-3-methylbut-2-enoate (8.07 g, 28.5 mmol) in concentrated sulfuric acid (20 mL) was stirred at 60° C. for 90 minutes. The reaction mixture was poured onto ice and diluted with water and extracted with ethyl acetate. The organic layer was concentrated and purified by flash column chromatography (silica gel, ethyl acetate/hexanes) to give the desired compound. 1H-NMR: 400 MHz, (CDCl3) δ: 7.98 (d, J=10.4 Hz, 1H), 7.83 (s, 1H), 7.43 (d, J=7.2 Hz, 1H), 7.08 (s, 1H), 6.67 (s, 1H), 2.42 (s, 3H). LCMS-ESI− (m/z): [M−H]− calcd for C11H9BrO: 236.09. Found: 236.9.

reactant | ethyl 4-(3-bromophenyl)-3-methylbut-2-enoate | 28.5 mmol, 8.07 g | BrC=1C=C(C=CC1)CC(=CC(=O)OCC)C | C13H15BrO2
solvent | sulfuric acid | 20 mL | S(O)(O)(=O)=O | H2O4S
solvent | water | O | H2O
product | 6-bromo-3-methylnaphthalen-1-ol | BrC=1C=C2C=C(C=C(C2=CC1)O)C | C11H9BrO
